US04229448
7.35 g of a potassium salt of 5-hydroxy-2-methylpyridine was suspended in 20 ml of dimethylformamide, and 9.6 g of bromochlorobenzene and 800 mg of a copper powder were added to the suspension. The reaction was effected at a temperature of 120° C. for a period of 18 hours in a nitrogen stream while stirring. After allowing the reaction mixture to cool, the reaction mixture was diluted with 50 ml of methanol and then filtered. The filtrate was immediately concentrated to dryness, and 200 ml of chloroform and 100 ml of water were added to the dried material, and the mixture adjusted to a pH of 9 with 5 N sodium hydroxide. The insoluble matter was again separated by filtration. The resulting chloroform layer was dried with anhydrous sodium sulfate and immediately concentrated to dryness to obtain 8.2 g of oily 5-(p-chlorophenoxy)-2-methylpyridine. Gas chromatography revealed that the thus-obtained product contained no 5-(p-bromophenoxy)-2-methylpyridine.

reactant | potassium | 7.35 g | [K] | K
reactant | 5-hydroxy-2-methylpyridine | OC=1C=CC(=NC1)C | C6H7NO
reactant | bromochlorobenzene | 9.6 g | BrC1=C(C=CC=C1)Cl | C6H4BrCl
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | methanol | 50 ml | CO | CH4O
catalyst | copper | 800 mg | [Cu] | Cu
product | 5-(p-chlorophenoxy)-2-methylpyridine | 8.2 g | ClC1=CC=C(OC=2C=CC(=NC2)C)C=C1 | C12H10ClNO
